US04517202
A mixture of 6-acetoxy-2-carboxybicyclo[3,3,0]octane (2.23 g; prepared as described in Reference Example 5 and predominantly in the 2β-configuration), methanol (25 ml), and concentrated hydrochloric acid (0.15 ml), was heated at reflux for 16 hours. The mixture was then concentrated under reduced pressure to a third of its previous volume, and it was then added to an excess of water. The mixture was extracted with dichloromethane. The combined dichloromethane extracts were washed with saturated aqueous sodium bicarbonate solution, and then with saturated aqueous sodium chloride solution, and then it was dried over anhydrous sodium sulphate. Concentration under reduced pressure gave crude 6-hydroxy-2-methoxycarbonylbicyclo[3,3,0]octane (1.98 g), predominantly in the 2β-configuration, and pure enough for use in the next stage.

reactant | 6-acetoxy-2-carboxybicyclo[3,3,0]octane | C(C)(=O)OC1C2CCC(C2CC1)C(=O)O | C11H16O4
reactant | hydrochloric acid | 0.15 ml | Cl | ClH
reactant | methanol | 25 ml | CO | CH4O
product | 6-hydroxy-2-methoxycarbonylbicyclo[3,3,0]octane | 1.98 g | OC1C2CCC(C2CC1)C(=O)OC | C10H16O3
